US07595327B2
To a solution of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid (0.210 g, 0.459 mmol) and 1-hydroxybenzotriazole (HOBT, 0.186 g, 1.38 mmol) in DMF (10 mL) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.264 g, 1.38 mmol) at 0° C. The reaction mixture stirred at 0° C. for 10 min, then warmed to 25° C. over 1.0 h. After re-cooling the reaction to 0° C., hydroxylamine (50% by wt in water solution, 0.5 mL, 4.6 mmol) was added. The reaction was allowed to warm to 25° C. over 19 h and then formic acid (0.151 g, 3.2 mmol) added. The reaction was stirred for 10 min at 25° C. and 40° C. for 30 min and then allowed to warm to 25° C. over 19 h. The DMF was removed in vacuo and the resulting oil was diluted in ethyl acetate (100 mL) and then washed with saturated aqueous sodium bicarbonate (3×30 mL) and brine (30 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain a crude solid (0.195 g). The crude product was purified by reverse phase HPLC (Gilson) on a Phenomex C-18 semi-prep column eluting with an acetonitrile:water gradient, to afford (3S,4R)-1 -formyl-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl amino]-piperidine-3-carboxylic acid hydroxyamide as an amorphous white solid (0.025 g, 11.6%). MS: 499 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid | 0.459 mmol, 0.210 g | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(CNCC1)C(=O)O | C23H25N3O5S
reactant | 1-hydroxybenzotriazole | 1.38 mmol, 0.186 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.38 mmol, 0.264 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine | 4.6 mmol, 0.5 mL | NO | H3NO
reactant | formic acid | 3.2 mmol, 0.151 g | C(=O)O | CH2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3S,4R)-1 -formyl-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl amino]-piperidine-3-carboxylic acid hydroxyamide | 0.025 g, 11.6% | ONC(=O)[C@H]1CN(CC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C=O | C24H26N4O6S
